Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6][H:7],7.744169739199999
[H:1][O:2]/[C:3](=[C:4](\[H:5])[C:6][H:7])[O:11][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]1,-4.0341887484
[C:1]=[O:2].[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],1.37516768604
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.5859631437
[H:1][C:2]([H:3])([H:4])[C:5][C@@:8]([O:7][O:6])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-2.48458455013
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.37211822791
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-5.04965489872
[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.32779074673
[H:4].[O:1][O:2]/[C:3](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.9875456740400006
[C:1]#[C:2][C:3][C:4]([H:5])[C:7]([C:8])([H:9])[H:10].[H:6]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8])([H:9])[H:10],-2.42884259267
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8][H:9],5.13470260199
[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([O:4][C:5][H:6])=[C:11]([H:12])[H:13],3.92659031801
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2],7.22554634778
[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.93755190281
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11],-3.18898887481
[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-0.4624147663100001
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.6683849967400004
[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-2.19058433
[O:1]=[C:2]([H:3])[H:4]>>[H:4].[O:1]=[C:2][H:3],3.99159007408
[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.1795039227600002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.66276970374
[H:1][O:2][C:3]#[C:4][C:5][O:7][C:8]([H:9])[H:10].[H:6]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],-4.29864873804
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-0.204426180329
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.60359018601
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],6.935241501010001
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3],0.5198010339119999
[C:1]#[C:2][C:3]([C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3](=[C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.14538256206
[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-4.437352461590001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],5.22903557
[H:1][C:2]1[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10]1>>[H:1][C:2]([C:3][O:4][C:5][H:6])[O:10][C:7]([H:8])[H:9],3.62035363439
